US06716851B2
4-(2-Methoxy-5-trifluoromethylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3-amino-4-methoxybenzotrifluoride (55 mg, 0.290 mmol) similar to Example 58 and isolated as a yellow solid (56 mg, 70%/O). 1H NMR (CDCl3): 9.66 (dd, J=0.6, 2.1 Hz, 1H), 8.95 (s, 1H), 8.75 (dd, J=1.8, 4.8 Hz, 1H), 8.73-8.69 (m, 1H), 7.67 (s, 1H), 7.46-7.42 (m, 1H), 7.41-7.37 (m, 1H), 7.01 (d, J=8.4 Hz, 1H) 6.93 (s, 1H), 3.99 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-amino-4-methoxybenzotrifluoride | 0.290 mmol, 55 mg | NC=1C=C(C=CC1OC)C(F)(F)F | C8H8F3NO
product | 4-(2-Methoxy-5-trifluoromethylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | COC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C=C1)C(F)(F)F | C18H12F6N4O
